US04769482
5-[4-(4-Acetyl-3-hydroxy-2-propylphenoxy)-butyl]-tetrazole
A solution of 20.73 g. (75 mmoles) of 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butane nitrile, 14.63 g. (225 mmoles) of sodium azide, and 12.04 g. (225 mmoles) of ammonium chloride in 200 ml. of dimethylforamide was heated at 125° C. for about 17 hours. At this time an additional 9.75 g. (150 mmoles) of sodium azide and 8.02 g. (150 mmoles) of ammonium chloride were added and the heating was continued for an additional 6 hours. The reaction mixture was filtered hot and evaporated to dryness in vacuo yielding a viscous dark oil. The residue was treated with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was dried over sodium sulfate and evaporated in vacuo yielding an oil which crystallized upon cooling. The crystals were boiled with decolorizing carbon in ethyl acetate for about 30 minutes. The solution was filtered hot, and the filtrate was cooled in the refrigerator to yield orange-amber crystals. The crystals were collected by vacuum filtration and washed with ethyl acetate to give 6.49 g. of the title product, m.p. about 113.5°-115° C.

reactant | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butane nitrile | 75 mmoles | C(C)(=O)C1=C(C(=C(OCCCC#N)C=C1)CCC)O | C15H19NO3
reactant | sodium azide | 225 mmoles | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 225 mmoles | [Cl-].[NH4+]
reactant | sodium azide | 150 mmoles | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 150 mmoles | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
reactant | dimethylforamide | CN(C=O)C | C3H7NO
product | 5-[4-(4-Acetyl-3-hydroxy-2-propylphenoxy)-butyl]-tetrazole | C(C)(=O)C1=C(C(=C(OCCCCC2=NN=NN2)C=C1)CCC)O | C16H22N4O3
